US04243405
4-Chlorobenzylpinacolone (11.2 g) in carbon tetrachloride (80 ml) was cooled to about 5° and bromine (8 g) in carbon tetrachloride (20 ml) added dropwise at that temperature over 2 hours. Care was taken to keep free bromine to a minimum in the reaction mixture in order to avoid byproduct formation. The solution was washed with saturated aqueous sodium bicarbonate and with water, dried (magnesium sulphate), and concentrated in vacuo to afford, as a white crystalline solid, crude 1-(4'-chlorophenyl)-2-bromo-4,4-dimethylpentan-3-one, m.p. 48°-50°.

reactant | 4-Chlorobenzylpinacolone | 11.2 g | ClC1=CC=C(CCC(C(C)(C)C)=O)C=C1 | C13H17ClO
reactant | bromine | 8 g | BrBr | Br2
solvent | carbon tetrachloride | 80 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 20 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(4'-chlorophenyl)-2-bromo-4,4-dimethylpentan-3-one | ClC1=CC=C(C=C1)CC(C(C(C)(C)C)=O)Br | C13H16BrClO
